* WebSpice Studio — Generated Netlist

.Model Dx diode (Is=14n Rs=0 N=1)

D1 1 2 Dx
R1 2 0 1k
V1 1 0 DC 5

.op
.control
run
set color0 = white
set color1 = black
set xbrushwidth = 2
print all
.endc
.end