* WebSpice Studio — Generated Netlist

.Model Dx diode (Is=14n Rs=0 N=1)

D1 1 3 Dx
R1 3 0 1k

.tran 0.01m 2m 0
.control
run
set color0 = white
set color1 = black
set color2 = brown
set color3 = brown
set color4 = brown
set color5 = brown
set xbrushwidth = 2
print all
set hcopydevtype = svg
hardcopy plot_win1.svg v(1) title 'Graph Window 1'
hardcopy plot_win2.svg v(2) title 'Graph Window 2'
hardcopy plot_win3.svg v(3) title 'Graph Window 3'
hardcopy plot_win4.svg v(4) title 'Graph Window 4'
.endc
.end