* WebSpice Studio — Generated Netlist

* --- Ideal Op-Amp Subcircuit: LM741 ---
.subckt LM741 vplus vminus out vspos vsneg
Eout out 0 vplus vminus 200000
Rin vplus vminus 2MEG
Rout_int out 0 75
.ends LM741

V1 Vin 0 SINE(0 5 1k 0 0 0)
VsNeg_X1 vsn_X1 0 DC -15
VsPos_X1 vsp_X1 0 DC 15
XX1 Vin 0 Vout vsp_X1 vsn_X1 LM741

.tran 0.01m 8m 0
.control
run
set color0 = white
set color1 = black
set color2 = red
set color3 = red
set xbrushwidth = 2
print all > sim_out.txt
set hcopydevtype = svg
hardcopy plot_win1.svg v(Vin) title 'Graph Window 1'
hardcopy plot_win2.svg v(Vout) title 'Graph Window 2'
.endc
.end